US08980934B2
3,3-Bis(bromomethyl)-1-(p-toluenesulfonyl)azetidine
(3-(Bromomethyl)-1-(p-toluenesulfonyl)azetidin-3-yl)methanol (10.2 g, 30.6 mmol) was dissolved in DCM (100 mL) and CBr4 (16.9 g, 51 mmol) was added. The solution was cooled to 0° C. and then PPh3 (13.4 g, 51 mmol) was added in one portion. The resulting mixture was stirred at 0° C. for 2 h, then warmed to rt and stirred for 4 h. Et2O (100 mL) was added and the yellow precipitate was filtered. The filtrate was concentrated under reduced pressure and purification by flash chromatography (Biotage Isolera, 100 g KP-SIL, 0-30% EtOAc in hexanes) gave the title compound as colourless crystals (8.05 g, 67%). 1H NMR (400 MHz, CDCl3) δ ppm 7.74 (d, J=8.3 Hz, 2H), 7.41 (d, J=8.0 Hz, 2H), 3.60 (s, 4H), 3.54 (s, 4H), 2.48 (s, 3H); MS ESI 398.1 [M+H]+, calcd for [C12H15Br2NO2S+H]+397.9.

reactant | (3-(Bromomethyl)-1-(p-toluenesulfonyl)azetidin-3-yl)methanol | 30.6 mmol, 10.2 g | BrCC1(CN(C1)S(=O)(=O)C1=CC=C(C=C1)C)CO | C12H16BrNO3S
reactant | CBr4 | 51 mmol, 16.9 g | C(Br)(Br)(Br)Br | CBr4
reactant | Et2O | 100 mL | CCOCC | C4H10O
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
product | 3,3-Bis(bromomethyl)-1-(p-toluenesulfonyl)azetidine | 8.05 g, 67% | BrCC1(CN(C1)S(=O)(=O)C1=CC=C(C=C1)C)CBr | C12H15Br2NO2S
